US04701459
Methyl 1-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylate
Ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate (35.8 g, 92 mmol) in dimethylformamide (500 mL) was hydrogenated over 10% palladium on charcoal (3.6 g) at 200 psi pressure. After 42 hours, the mixture was filtered through kieselguhr, the solvent evaporated, and the residue diluted with 50% methanol/ether ether (500 mL). A light spray powder (25.0 g) was collected in two crops. The powder was added to methanol (500 mL) containing p-toluene sulfonic acid (1.5 g), and heated at reflux for 18 hours. Upon cooling, the mixture was filtered to give 19.5 g of an off white solid consisting of a mixture of ethyl 1-(1,3,9,9a-tetrahydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylate and the corresponding oxidized 2,3-dihydro compound (ethyl ester of the title compound). The solid was added to methanol (500 mL), heated to reflux, iodine (13.7 g, 54 mmol) added portionwise, and reflux continued for 2.5 hours. Upon cooling, 10% sodium thiosulfate and 10% sodium carbonate solution were added until pH=7. Water (300 mL) was added, and the precipitate consisting of the title compound collected (19.4 g, 65%).

reactant | Ethyl 1-[3-[(2,4-dioxoimidazolidin-5-ylidene)methyl]-4-nitrophenyl]-4-piperidinecarboxylate | 92 mmol, 35.8 g | O=C1NC(C(N1)=O)=CC=1C=C(C=CC1[N+](=O)[O-])N1CCC(CC1)C(=O)OCC | C18H20N4O6
solvent | dimethylformamide | 500 mL | CN(C=O)C | C3H7NO
catalyst | palladium on charcoal | 3.6 g | [Pd] | Pd
product | Methyl 1-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]quinolin-7-yl)-4-piperidinecarboxylate | O=C1NC=2C(=NC=3C=CC(=CC3C2)N2CCC(CC2)C(=O)OC)N1 | C17H18N4O3
